US05834575
In an atmosphere of argon, 42.3 g (0.28 mol) of N,N-diethylaniline was dissolved in 570 ml of anhydrous DMF, and the solution obtained was cooled to 0° C., and then 46.3 g (1.25-fold equivalent weight) of tetracyanoethylene was added thereto. Then, the solution obtained was restored to room temperature, and stirred for 4.5 hours, which was thereafter poured in 1 liter of a saturated aqueous sodium hydrogencarbonate solution. The solid thus deposited was filtered to obtain a residue, and the residue was subjected to azeotropic distillation twice with 300 ml of toluene to remove the water content. Thereafter, 300 ml of ethyl acetate was added, and the atmosphere was replaced with argon, followed by heating at 80° C. for 1 hour to effect dissolution. To the mixture obtained, 800 ml of hexane was added with stirring, and the solution obtained was cooled to room temperature. The solid thus deposited was collected by filtration, and the residue obtained was vacuum-dried to obtain 51.7 g of N,N-diethyl-4-tricyanovinylaniline (yield: 74%).

reactant | N,N-diethylaniline | 0.28 mol, 42.3 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | tetracyanoethylene | 46.3 g | C(#N)C(=C(C#N)C#N)C#N | C6N4
reactant | hexane | 800 ml | CCCCCC | C6H14
solvent | DMF | 570 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogencarbonate | 1 liter | C(O)([O-])=O.[Na+]
product | N,N-diethyl-4-tricyanovinylaniline | 51.7 g, yield: 74% | C(C)N(C1=CC=C(C=C1)C(=C(C#N)C#N)C#N)CC | C15H14N4
